US04735959
4-[(1-(5-Benzoylamino-2-piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzoic acid
An amount of 0.30 ml (2.62 m mol) of benzoyl chloride was added dropwise to a solution of 1 gm (2.62 m mol) of 4-[(1-(5-amino-2-piperidino-phenyl)-ethyl)-aminocarbonylmethyl]-benzoic acid and of 0.37 ml (2.62 m mol) of triethylamine in 10 ml of anhydrous dimethyl formamide. After stirring for two hours at 20° to 30° C., the reaction mixture was evaporated in vacuo and distributed between water and ethyl acetate. The organic phase was dried, filtered, and evaporated in vacuo. The evaporation residue (1.12 gm) was recrystallized from ethanol by addition of activated charcoal.

reactant | benzoyl chloride | 0.30 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 4-[(1-(5-amino-2-piperidino-phenyl)-ethyl)-aminocarbonylmethyl]-benzoic acid | 1 gm | NC=1C=CC(=C(C1)C(C)C(C1=CC=C(C(=O)O)C=C1)C(=O)N)N1CCCCC1 | C22H27N3O3
reactant | triethylamine | 0.37 ml | C(C)N(CC)CC | C6H15N
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-[(1-(5-Benzoylamino-2-piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzoic acid | C(C1=CC=CC=C1)(=O)NC=1C=CC(=C(C1)C(C)C(C1=CC=C(C(=O)O)C=C1)C(=O)N)N1CCCCC1 | C29H31N3O4
